US07612114B2
Synthesized from 1-bromo-2-nitrobenzene according to an analogous synthetic method to Preparation Example 103, 1-benzyl-3-(2-nitrophenyl)pyrrolidine (1.0 g) was used according to an analogous synthetic method to Preparation Example 104 to provide 3-(2-nitrophenyl)pyrrolidine (184 mg). Synthesized from 3-(2-nitrophenyl)pyrrolidine and 3-bromoanisole according to an analogous synthetic method to Example 116 described below, 1-(3-methoxyphenyl)-3-(2-nitrophenyl)pyrrolidine (141 mg) was used according to an analogous synthetic method to Example 22 to provide the title compound (126 mg).

reactant | 1-bromo-2-nitrobenzene | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 1-benzyl-3-(2-nitrophenyl)pyrrolidine | 1.0 g | C(C1=CC=CC=C1)N1CC(CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C17H18N2O2
product | 3-(2-nitrophenyl)pyrrolidine | 184 mg | [N+](=O)([O-])C1=C(C=CC=C1)C1CNCC1 | C10H12N2O2
